US08633173B2
1-(5-Bromo-pyridin-3-yl)-4-methyl-piperazine was prepared from 3,5-dibromo-pyridine (1.00 g, 4.22 mmol) and piperazine, 1-methyl-(0.936 mL, 8.44 mmol) which were combined and heated in a microwave vial to 180° C. for 2 hours. The reaction mixture was taken up in dichloromethane and purified by silica gel chromatography 0-10% methanol in dichloromethane to afford a clear oil (37%). 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 8.20 (s, 1H), 8.11 (s, 1H), 7.29 (m, 1H), 3.25 (bm, 4H), 2.58 (bm, 4H), 2.35 (s, 3H).

reactant | 3,5-dibromo-pyridine | 4.22 mmol, 1.00 g | BrC=1C=NC=C(C1)Br | C5H3Br2N
reactant | piperazine | N1CCNCC1 | C4H10N2
reactant | dichloromethane | ClCCl | CH2Cl2
product | 1-(5-Bromo-pyridin-3-yl)-4-methyl-piperazine | BrC=1C=C(C=NC1)N1CCN(CC1)C | C10H14BrN3
